US07001902B2
4.2 N-[2-(1,4-Diazabicyclo[3.2.2]non-4-yl)-2-oxoethyl]-4-methoxybenzamide
0.42 g (2 mmol) of N-(4-methoxybenzoyl)glycine dissolved in 20 ml of dioxane is placed in a 50 ml round-bottomed flask, 0.45 g (2.2 mmol) of dicyclohexylcarbodiimide is added, the mixture is stirred at room temperature for 30 minutes, 0.25 g (2 mmol) of 1,4-diazabicyclo[3.2.2]nonane is added and the mixture is stirred for a further one hour. 20 ml of water are added, the precipitate formed is filtered off, the filtrate is extracted with chloroform, the organic phase is extracted with aqueous 0.1N hydrochloric acid solution and the aqueous extraction phase is basified to pH 10 by addition of concentrated aqueous sodium hydroxide solution and extracted with chloroform. The organic phase is dried over sodium sulfate and concentrated under reduced pressure.

reactant | N-(4-methoxybenzoyl)glycine | 2 mmol, 0.42 g | COC1=CC=C(C(=O)NCC(=O)O)C=C1 | C10H11NO4
reactant | dicyclohexylcarbodiimide | 2.2 mmol, 0.45 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1,4-diazabicyclo[3.2.2]nonane | 2 mmol, 0.25 g | N12CCNC(CC1)CC2 | C7H14N2
reactant | water | 20 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | N-[2-(1,4-Diazabicyclo[3.2.2]non-4-yl)-2-oxoethyl]-4-methoxybenzamide | N12CCN(C(CC1)CC2)C(CNC(C2=CC=C(C=C2)OC)=O)=O | C17H23N3O3
